US05837704
5,11-Dihydro-11-ethyl-5-methyl-2-(1-methylpyrazol-4-yl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The title compound (mp 65°-67° C.) was prepared from 5,11-dihydro-11-ethyl-5-methyl-2-trifluoromethanesulfonyloxy-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and N-methyl-4-iodopyrazole in a manner analogous to that described in Example 1.

reactant | 5,11-dihydro-11-ethyl-5-methyl-2-trifluoromethanesulfonyloxy-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)N1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC(=N2)OS(=O)(=O)C(F)(F)F | C15H13F3N4O4S
reactant | N-methyl-4-iodopyrazole | CN1N=CC(=C1)I | C4H5IN2
product | 5,11-Dihydro-11-ethyl-5-methyl-2-(1-methylpyrazol-4-yl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)N1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC(=N2)C=2C=NN(C2)C | C18H18N6O
